US04080453
A solution of 3-(2-hydroxyethyl)-2-phenyloxazolidine (78 g) in anhydrous ether (300 ml) is added dropwise with stirring to Grignard reagent which is prepared from magnesium turnings (22 g) and m-methylbenzylbromide (150 g) in anhydrous ether (1200 ml), and the mixture is refluxed for 3 hours. After the reaction, the reaction mixture is decomposed with an ammonium chloride aqueous solution, and made alkaline with ammonia. The ether layer is separated and extracted with an excess amount of 10% hydrochloric acid. The aqueous layer is separated and made alkaline with sodium hydroxide and extracted with chloroform. The chloroform layer is dried over anhydrous sodium sulfate, and the solvent is distilled off to give crude dl-N,N-bis(2-hydroxyethyl)-1-phenyl-2-(3-tolyl)ethylamine (100 g) as an oily substance.

reactant | 3-(2-hydroxyethyl)-2-phenyloxazolidine | 78 g | OCCN1C(OCC1)C1=CC=CC=C1 | C11H15NO2
reactant | magnesium | 22 g | [Mg] | Mg
reactant | m-methylbenzylbromide | 150 g | CC=1C=C(CBr)C=CC1 | C8H9Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | ether | 1200 ml | CCOCC | C4H10O
product | N,N-bis(2-hydroxyethyl)-1-phenyl-2-(3-tolyl)ethylamine | 100 g | OCCN(CCO)C(CC=1C=C(C=CC1)C)C1=CC=CC=C1 | C19H25NO2
